US08912210B2
Step A: Methyl N-(tert-butoxycarbonyl)-4-(2-fluorophenyl)-5-nitrilonorvalinate
To a solution of methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate (5.00 g, 15.19 mmol) in DMF (20 mL) was added cesium carbonate (5.44 g, 16.71 mmol) and the mixture was stirred at 23° C. for 2 h. (2-Fluorophenyl)acetonitrile (5.87 mL, 45.6 mmol) and cesium carbonate (7.42 g, 22.8 mmol) were added and the resulting mixture was stirred for 1 h. The mixture was filtered and water was added to the filtrate. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (0% ethyl acetate→50% ethyl acetate/hexane) gave the title compound as a racemic mixture of cis and trans diastereomers. MS: m/z=378.1 (M+CH3CN+1).

reactant | methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate | 15.19 mmol, 5.00 g | C(C)(C)(C)OC(=O)N[C@H](CI)C(=O)OC | C9H16INO4
reactant | cesium carbonate | 16.71 mmol, 5.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-Fluorophenyl)acetonitrile | 45.6 mmol, 5.87 mL | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | cesium carbonate | 22.8 mmol, 7.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl N-(tert-butoxycarbonyl)-4-(2-fluorophenyl)-5-nitrilonorvalinate | C(C)(C)(C)OC(=O)N[C@@H](CC(C#N)C1=C(C=CC=C1)F)C(=O)OC | C17H21FN2O4
